2110-09-01 06:16:00 Physician Resident Progress Note
Chief Complaint: Dyspnea, hypoxia
   24 Hour Events:
   Pt continued to be dypsneic over yesterday since transfer to [**Hospital Unit Name 44**]. At
   4pm, switched to 6L NC to maintain sat above 92%.  Increasingly
   tachypneic overnight (RR 20-30s -> 40s.) Last night had episode of
   acute dyspnea. CTA obtained, which ruled out PE. Did show possible
   worsening of underlying pulmonary process.
   Multiple fever spikes throughout the day and now this a.m. Does not
   always respond to Tylenol.
   Has also had multiple episodes of incontinence, currently using condom
   cath.
 MULTI LUMEN - START [**2110-8-31**] 09:54 AM
 FEVER - 103.6
F - [**2110-8-31**] 05:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2110-8-31**] 10:00 PM
   Caspofungin - [**2110-9-1**] 12:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2110-9-1**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
F) 5pm
   Tcurrent: 37.6
C (99.6
   HR: 129 (110 - 149) bpm
   BP: 103/61(71) {93/57(68) - 147/89(98)} mmHg
   RR: 43 (22 - 45) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,090 mL
                                                                    250 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    550 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    140 mL
   Urine:
                                                                    500 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    590 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula  6L
   SpO2: 97%
   ABG: 7.55/28/64//2 (yesterday pm during time of acute tachypnea, likely
   reflects a respiratory alkalosis with component of metabolic alkalosis)
   Physical Examination
   GEN: awake, laying in bed, NAD, breathing fast but unlabored
   HEENT: mmm, no erythema/exudates in oropharynx, EOMI grossly, no LAD
   CV: RRR, no m/r/g, S1 S2 present
   LUNGS: decreased breath sounds bilaterally L>R, crackles mid ->right
   lung base
   ABD: soft, NTND, bs+
   EXT: 1+pitting edema bilaterally, no c/c, pedal pulses 2+
   Labs / Radiology
   13K/uL
   0.8
   24
   4
   23
   106
   138
   21.7
   2 K/uL
          [image002.jpg]
   INR 2.3, PT 24, PTT 33.9, Ca 8.1, Mg 1.9, Phos 2.2
   Blood cx- pending
   BAL: GS 1+PMN, no org; Cx- ngtd; Negative for PCP, [**Name Initial (NameIs) **]/AFB Cx
   pending, AFBsmear negative, Viral cx pending
   Legionella negative
   HBV Viral load- pending
   CXR [**2110-8-31**]
   No consolidation.
   CTA CHEST [**2110-9-1**]
   1. No central or segmental pulmonary embolus. No acute aortic
   abnormalities.
   2. Persistent, diffuse, bilateral micronodular opacities sparing the
   periphery, suggestive of atypical infection, unchanged or slightly
   worse from
   two days previously. Scattered mediastinal and hilar lymph nodes are
   likely
   reactive.
                             [**2110-8-30**]  04:14 PM
                             [**2110-8-31**]  05:17 PM
                             [**2110-8-31**]  05:44 PM
   WBC
   1.8
   Hct
   24.1
   Plt
   16
   TCO2
   30
   25
   Other labs: Fibrinogen:673 mg/dL, Lactic Acid:2.9 mmol/L
   Assessment and Plan
   A/P:
   Mr. [**Known lastname 3904**] is a 57 year old male with history of HIV since [**2099**] on
   the BMT service for possible AML M6 vs infectious process, now
   transferred to the [**Hospital Unit Name 44**] s/p bronchoscopy for tachypnea.
   .
   # Tachypnea: the patient became tachypneic on a.m. of admission, but
   maintained his sats well. His repeat ABG showed a primary respiratory
   alkalosis with a slight increase in his A-a gradient. The patient felt
   that he was becoming very anxious and given that he responded to ativan
   very well and his CXR is unchanged from prior, his decrease in PO2 may
   very well have been from hyperventilation and increased dead space
   ventilation. CTA ruled out PE, but does support an atypical infectious
   process in his lungs. Pt continues to be tachypneic, despite
   anti-anxiety medication and reassurance, currently requiring 6LNC.
   - continue supplemental O2
   - Continue Doxycyclin (Day #2) per ID recs (concern for atypical
   infection like pulmonary tularemia)
   - Continue cefepime, caspofungin
   - Do not restart PCP [**Name Initial (PRE) **]  (negative for PCP on BAL)
   - RTC anxiolytics
   - Appreciate ID recs
   .
   # Hypoxia: evidence of patchy infiltrates on chest CT concerning for
   atypical infection. ID recommends restarting doxycyclin.
   - Continue supplemental O2
   - Continue cefepime, caspofungin, Doxycyclin
   .
   # Pancytopenia: bone marrow biopsy is concerning for AML M6 type. His
   very extensive infectious disease workup has so far been negative,
   including a negative PCR for ParvoB19. He appears to be hemolyzing
   given elevated LDH and low haptoglobin, although this is likely
   compounded by myelodysplasia.
   - further analysis of bone marrow findings are pending
   - Will talk with BMT regarding the risks/benefits of holding chemo
   while evaluating pulmonary process, as fever/symptoms may be secondary
   to the leukemia itself vs. pulmonary infection.
   - Will touch base with BMT regarding transfusion thresholds
   (?hematocrit>25, plts>20). Current hct =  21.7, plt = 13.
   - f/u ID recs, restarted doxycycline as above
   .
   # Neutropenic fever: Tmax of 103.6 over yesterday.
   -          Continue treatment as above, Tylenol PRN
   .
   #Elevated LFTs: pt has had up-trending LFTS over past few days.
   -          Consider U/S RUQ to eval for infiltrative process, given
   pt
s dx of leukemia.
   -          Will touch base with BMT.
   .
   # HIV: Continue HAART therapy.
   - stable on atripla treatment
   .
   # HTN: HR elevated over most of yesterday (range 100-130s), BP in
   90s-110s. Pt also has had decreased urine output.
   -          Will try a fluid challenge to see if  UOP and HR will
   respond favorably.
   -          For now, will continue home Lopressor 25 [**Hospital1 **]. Will consider
   increasing if HR still not effectively controlled after fluid
   challenge.
   .
   # Hyperlipidemia: Cont zetia
   .
   # FEN: neutropenic diet, replete as necessary
   .
   # PPX: venodynes. Will add H2 blocker today.
   .
   # Lines: PIV, RSC CVL
   .
   # Dispo: Continue ICU monitoring as HR and respiratory status still
   unstable.
   .
   # Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-8-31**] 09:54 AM
   18 Gauge - [**2110-8-31**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-09-01 10:40:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, respiratory distress, AML, pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Oxygenation deteriorated slightly overnight with increased supplemental
   oxygen via nasal cannula, and then had more sudden change in
   respiratory rate in absence of reported anxiety. CTA obtained for
   tachypnea; it was negative for pulmonary embolism. Temp up to 103.6
   yesterday as well.
   24 Hour Events:
 MULTI LUMEN - START [**2110-8-31**] 09:54 AM
 FEVER - 103.6
F - [**2110-8-31**] 05:00 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2110-9-1**] 12:03 AM
   Cefipime - [**2110-9-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Doxycycine, lopressor, Klonopin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-1**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 37.4
C (99.3
   HR: 105 (105 - 149) bpm
   BP: 104/65(75) {93/53(65) - 147/89(98)} mmHg
   RR: 42 (22 - 45) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,090 mL
                                                                    420 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    550 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    140 mL
   Urine:
                                                                    500 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    590 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.55/28/64/24/2  (breathing 6L O2 via nasal cannula)
   Physical Examination
   General Appearance: Well nourished, No(t) Overweight / Obese, Thin,
   Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : [**1-30**] of the way up the chest bilaterally,
   No(t) Bronchial: , Wheezes : Soft expiratory wheeze, No(t) Diminished:
   , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person,place and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   13 K/uL
   87 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   21.7 %
   2.0 K/uL
        [image002.jpg]
                             [**2110-8-30**]  04:14 PM
                             [**2110-8-31**]  05:17 PM
                             [**2110-8-31**]  05:44 PM
                             [**2110-9-1**]  05:50 AM
   WBC
   1.8
   2.0
   Hct
   24.1
   21.7
   Plt
   16
   13
   Cr
   0.8
   TCO2
   30
   25
   Glucose
   87
   Other labs: PT / PTT / INR:24.0/33.9/2.3, Fibrinogen:673 mg/dL, Lactic
   Acid:2.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CTA: no pulmonary embolism. Slight progression of ground glass
   opacities.
   Microbiology: BAL - no growth, AFB smear negative, legionella negative.
   Assessment and Plan
   1) Respiratory distress
   2) Pnemonia
   3) Pancytopenia
   4) AML
   Variable respiratory rates and oxygenation through the past 24 hours.
   During my exam, I reduced his supplemental O2 to 3L via nasal cannula.
   O2 sats holding at 95-96%. With coaching, respiratory rate a bit
   slower, although he remains tachypneic. Probably represents some
   anxiety and some stimulation of pulmonary receptors from underlying
   pneumonia, which dose appear to have progressed slightly on CT scan. No
   evidence of pulmonary embolism. Cultures remain negative thus far.
   Fevers persist.
   Hct near transfusion threshold. Given variable oxygenation, I would
   favor transfusion for increased oxygen carrying capacity.
   Start H2 blocker for stress ulcer prophylaxis and pneumoboots for DVT
   prophylaxis.
   Patient appears somewhat volume depleted. Give additional IV fluids via
   boluses.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2110-8-31**] 09:54 AM
   18 Gauge - [**2110-8-31**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2110-09-02 06:52:00 Physician Resident Progress Note
Chief Complaint: Dyspnea, hypoxia, febrile neutropenia
   24 Hour Events:
   Yesterday afternoon, pt decided to proceed with Chemo. He was amenable
   to intubation if necessary. Cytarabine was initiated last night.
   Pt required transfusion this a.m. of 1u PRBC (hct 20) and 2 bags plt
   (plt 9).
   Pt continued to spike fevers over yesterday.
   On exam this a.m., pt continued to be tachypneic with RR in 40s. Mental
   status less clear, possibly encephalopathic. Pt was unable to verbalize
   where he was and name, possibly [**3-1**] tachypnea.
   [**Name8 (MD) **] RN, pt was not taking PO meds (would hold meds in mouth without
   swallowing.)
 EKG - At [**2110-9-2**] 01:24 AM
 FEVER - 103.3
F - [**2110-9-1**] 03:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2110-9-2**] 12:00 AM
   Cefipime - [**2110-9-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2110-9-1**] 12:50 PM
   Famotidine (Pepcid) - [**2110-9-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-2**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 37.9
C (100.3
   HR: 129 (105 - 140) bpm
   BP: 118/79(87) {95/53(65) - 134/90(97)} mmHg
   RR: 34 (29 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 6 (2 - 8)mmHg
   Total In:
                                                                  1,936 mL
                                                                  1,055 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,441 mL
                                                                  1,055 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,800 mL
                                                                    590 mL
   Urine:
                                                                  1,800 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    136 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 5L, Face tent 50%
   SpO2: 100%
   ABG: 7.48/32/53/26/0  ([**8-1**], 2pm-> primary respiratory alkalosis)
   PaO2 / FiO2: 106
   Physical Examination
   Gen:  pt laying in bed, mildly distressed, tachpneic, face tent and
   nasal cannula on, not responding to questions
   HEENT: mmm, NCAT
   CV: tachycardic, no m/r/g
   LUNGS: diffuse coarse breath sounds bilaterally
   ABD: soft, NTND, bs+
   EXT: no c/c, 1+ pitting edema bilaterally, pedal pulses present
   bilaterally
   Labs / Radiology
   9 K/uL
   8.2 g/dL
   121 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   31 mg/dL
   106 mEq/L
   140 mEq/L
   22.7 %
   1.5 K/uL
        [image002.jpg]
   LDH uptrending (see below)
   AST uptrending (see below), AST stable
   INR uptrending (see below)
                             [**2110-8-30**]  04:14 PM
                             [**2110-8-31**]  05:17 PM
                             [**2110-8-31**]  05:44 PM
                             [**2110-9-1**]  05:50 AM
                             [**2110-9-1**]  02:06 PM
                             [**2110-9-1**]  06:14 PM
                             [**2110-9-1**]  09:55 PM
                             [**2110-9-2**]  04:54 AM
   WBC
   1.8
   2.0
   1.4
   1.4
   1.5
   Hct
   24.1
   21.7
   25
   20.2
   22.8
   22.7
   Plt
   16
   13
   16
   15
   9
   Cr
   0.8
   0.8
   0.9
   TCO2
   30
   25
   25
   Glucose
   87
   98
   121
   Other labs: PT / PTT / INR:31.7/35.4/3.3, ALT / AST:32/470, Alk Phos /
   T Bili:115/5.4, D-dimer:2487 ng/mL, Fibrinogen:764 mg/dL, Lactic
   Acid:2.9 mmol/L, LDH:[**Numeric Identifier 3932**] IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   A/P:
   Mr. [**Known lastname 3904**] is a 57 year old male with history of HIV since [**2099**] on
   the BMT service for possible AML M6 vs infectious process, now
   transferred to the [**Hospital Unit Name 44**] s/p bronchoscopy for tachypnea.
   .
   # Tachypnea: pt continues to be tachypneic. Likely related to his
   underlying malignancy vs. pulmonary infiltrative process. Requiring
   increased O2 daily. Pt expressed desire to be intubated if necessary.
   - continue supplemental O2. [**Month (only) 60**] intubate later today if work of
   breathing continues to increase.
   - Continue high-dose Doxycyclin (Day #3) per ID recs (concern for
   atypical infection like pulmonary tularemia)
   - Per ID recs, will d/c Cefepime and start Meropenem (Day #5) for broad
   spectrum coverage
   - Will add Vanc per ID recs to cover gram +
   - Will change Caspofungin to Microfungin per ID recs to decrease
   effects on LFTs
   - Holding off on PCP [**Name Initial (PRE) **]  (negative for PCP on BAL)
   - RTC anxiolytics
   - ID following
   .
   # AML M6 c/b Pancytopenia: likely poor prognosis per BMT. Pt is a poor
   candidate for BMT with his HIV status. Additionally, current chemo
   regimen available to pt is 2^nd line, with significant side effects. In
   family mtg, pt wanted to proceed with chemo.
   - Pending further analysis of bone marrow findings are pending
   - Pt started a dose of chemo with Cytarabine last night. Will touch
   base with BMT regarding additional dosing.
   - BMT following
   - Given mental status change and encephalopathy, will consider adding
   Lactulose (?non- PO form available).
   .
   # Neutropenic fever: pt continues to be afebrile with spikes to 103.
   -          Continue treatment as above, Tylenol PRN.
   .
   #Elevated LFTs: pt has had up-trending LFTS over past few days. LDH
   spiked to [**Numeric Identifier 3932**] this a.m. Can be related to recent initiation of chemo
   last night.
   -          RUQ u/s obtained yesterday to eval for obstructive process
   given leukemia. Results negative for masses/ infiltrative process.
   -          BMT following. Will touch base regarding adjustment of
   medications given transaminitis.
   -          Will check q6 tumor lysis labs.
   .
   # HIV: Stable on HAART therapy.
   - Continue Atripla. Will touch base with ID regarding adjustment of
   medications given transaminitis.
   .
   # BP control: currently stable. Continue home lopressor 25 [**Hospital1 **].
   # Hyperlipidemia: Zetia d/c
ed given elevated LFTs.
   .
   # FEN: neutropenic diet, but pt not taking much PO. Consider NGT for
   feeding (?mucositis given leukemia? Will check with BMT.) replete lytes
   as necessary.
   .
   # PPX: venodynes. H2 blocker IV.
   .
   # Lines: PIV, RSC CVL
   .
   # Dispo: Continue ICU monitoring as HR and respiratory status still
   unstable.
   .
   # Code: Full. Family meeting today to discuss possible plan for
   intubation today with patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-8-31**] 09:54 AM
   18 Gauge - [**2110-8-31**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-09-02 12:14:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, hypoxemia, AML, pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tachypnea waxed and waned over the day yesterday. Treatment started for
   his AML. Transfused PRBC's for Hct 20. Given platelets this AM for
   count of 9.
   O2 being give via open mask + nasal cannula.
   24 Hour Events:
 EKG - At [**2110-9-2**] 01:24 AM
 FEVER - 103.3
F - [**2110-9-1**] 03:00 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2110-9-2**] 12:00 AM
   Cefipime - [**2110-9-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2110-9-1**] 08:00 PM
   Furosemide (Lasix) - [**2110-9-2**] 08:18 AM
   Other medications:
   Zetia, doxycycline, Klonopin, atrovent, allopurinol, hydroxyurea
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-2**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 37.3
C (99.1
   HR: 142 (119 - 142) bpm
   BP: 118/57(73) {95/55(65) - 135/90(97)} mmHg
   RR: 42 (29 - 48) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 5 (2 - 8)mmHg
   Total In:
                                                                  1,936 mL
                                                                  1,955 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,441 mL
                                                                  1,656 mL
   Blood products:
                                                                    375 mL
                                                                    299 mL
   Total out:
                                                                  1,800 mL
                                                                  1,120 mL
   Urine:
                                                                  1,800 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    136 mL
                                                                    835 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool, Face tent
   SpO2: 98%
   ABG: 7.48/32/53/26/0
   PaO2 / FiO2: 106
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : ), (Breath Sounds: Clear : Lateral chest, No(t)
   Crackles : , No(t) Bronchial: , Wheezes : Anterior chest, No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   18 K/uL
   121 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   31 mg/dL
   106 mEq/L
   140 mEq/L
   22.7 %
   1.5 K/uL
        [image002.jpg]
                             [**2110-8-30**]  04:14 PM
                             [**2110-8-31**]  05:17 PM
                             [**2110-8-31**]  05:44 PM
                             [**2110-9-1**]  05:50 AM
                             [**2110-9-1**]  02:06 PM
                             [**2110-9-1**]  06:14 PM
                             [**2110-9-1**]  09:55 PM
                             [**2110-9-2**]  04:54 AM
                             [**2110-9-2**]  08:56 AM
   WBC
   1.8
   2.0
   1.4
   1.4
   1.5
   Hct
   24.1
   21.7
   25
   20.2
   22.8
   22.7
   Plt
   16
   13
   16
   15
   9
   18
   Cr
   0.8
   0.8
   0.9
   TCO2
   30
   25
   25
   Glucose
   87
   98
   121
   Other labs: PT / PTT / INR:31.7/35.4/3.3, ALT / AST:32/470, Alk Phos /
   T Bili:115/5.4, D-dimer:2487 ng/mL, Fibrinogen:764 mg/dL, Lactic
   Acid:2.9 mmol/L, LDH:[**Numeric Identifier 3936**] IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.5 mg/dL
   Imaging: RUQ ultrasound: preliminary - fatty infiltration of liver
   CXR: increased alveolar nodular opacities bilaterally
   Assessment and Plan
   1) Pneumonia
   2) Hypoxemia
   3) Respiratory distress
   4) AML
   5) pancytopenia
   6) Coagulopathy
   CXR yesterday shows progression of bilateral alveolar opacities.
   Patient remains dependent on supplemental oxygen. Antibiotics continue;
   will make modifications per ID recommendations given rising LFT's and
   persistent pancytopenia. No new culture data.
   Chemo started for AML.
   Blood counts remain low. Transfused RBC's and platelets this AM. No
   evidence of active bleeding.
   Lactic acid rising; may relate to infection or progressive liver
   failure.
   Patient less alert. Concern for hepatic encephalopathy. Begin lactulose
   if we can get it into him; thrombocytopenia and neutropenia make NG
   tube or rectal administration risky.
   Unable to eat. Consider starting TPN.
   ICU Care
   Nutrition: consider TPN
   Glycemic Control:
   Lines: right subclavian
   Multi Lumen - [**2110-8-31**] 09:54 AM
   18 Gauge - [**2110-8-31**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2110-09-03 06:51:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, Dyspnea, Febrile neutropenia
   24 Hour Events:
   Pt was intubated yesterday afternoon.
   NGT was not placed.
   Uric acid rising- IV Allopurinol obtained from [**Hospital1 183**].
   Pt required 3u pRBCs, 3u FFP, 2bags plt.
   In the pm (2200), BP fell to the 80s/40. Pressors were held off?
   Renal function is worsening.
   Respiratory function was worsening (ABGs). When PEEP was raised, MAP
   decreased. FiO2 increased to 60%.
 INVASIVE VENTILATION - START [**2110-9-2**] 03:00 PM
 ARTERIAL LINE - START [**2110-9-2**] 10:00 PM
 FEVER - 102.3
F - [**2110-9-2**] 11:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2110-9-2**] 12:00 AM
   Cefipime - [**2110-9-2**] 06:00 AM
   Vancomycin - [**2110-9-2**] 05:21 PM
   Doxycycline - [**2110-9-2**] 08:00 PM
   Meropenem - [**2110-9-3**] 01:14 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2110-9-2**] 08:18 AM
   Famotidine (Pepcid) - [**2110-9-3**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-3**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 36
C (96.8
   HR: 120 (118 - 143) bpm
   BP: 83/51(61) {81/48(61) - 107/61(106)} mmHg
   RR: 33 (18 - 45) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 18 (4 - 18)mmHg
   Total In:
                                                                  4,517 mL
                                                                  3,386 mL
   PO:
   TF:
   IVF:
                                                                  3,052 mL
                                                                  2,418 mL
   Blood products:
                                                                  1,465 mL
                                                                    968 mL
   Total out:
                                                                  1,555 mL
                                                                      5 mL
   Urine:
                                                                  1,555 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,962 mL
                                                                  3,381 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Sao2 < 90%, RR >35, Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.34/41/51/19/-3
   Ve: 17.2 L/min
   PaO2 / FiO2: 85
   Physical Examination
   Labs / Radiology
   10 K/uL
   8.6 g/dL
   92 mg/dL
   2.2 mg/dL
   19 mEq/L
   4.0 mEq/L
   45 mg/dL
   108 mEq/L
   143 mEq/L
   24.1 %
   1.1 K/uL
        [image002.jpg]
                             [**2110-9-2**]  04:54 AM
                             [**2110-9-2**]  08:56 AM
                             [**2110-9-2**]  11:56 AM
                             [**2110-9-2**]  12:23 PM
                             [**2110-9-2**]  06:01 PM
                             [**2110-9-2**]  09:58 PM
                             [**2110-9-2**]  11:29 PM
                             [**2110-9-2**]  11:40 PM
                             [**2110-9-3**]  04:30 AM
                             [**2110-9-3**]  05:22 AM
   WBC
   1.5
   1.0
   1.1
   Hct
   22.7
   20.0
   18.6
   18.2
   24.1
   Plt
   9
   18
   20
   31
   16
   10
   Cr
   0.9
   1.9
   2.2
   TCO2
   24
   26
   24
   23
   Glucose
   121
   91
   92
   Other labs: PT / PTT / INR:23.9/32.2/2.3, ALT / AST:28/452, Alk Phos /
   T Bili:95/10.6, D-dimer:2487 ng/mL, Fibrinogen:690 mg/dL, Lactic
   Acid:5.0 mmol/L, Albumin:2.5 g/dL, LDH:[**Numeric Identifier 3970**] IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   A/P:
   Mr. [**Known lastname 3904**] is a 57 year old male with history of HIV since [**2099**] on
   the BMT service for possible AML M6 vs infectious process, now
   transferred to the [**Hospital Unit Name 44**] s/p bronchoscopy for tachypnea.
   .
   # Tachypnea: pt continues to be tachypneic. Likely related to his
   underlying malignancy vs. pulmonary infiltrative process. Requiring
   increased O2 daily. Pt expressed desire to be intubated if necessary.
   - continue supplemental O2. [**Month (only) 60**] intubate later today if work of
   breathing continues to increase.
   - Continue high-dose Doxycyclin (Day #3) per ID recs (concern for
   atypical infection like pulmonary tularemia)
   - Per ID recs, will d/c Cefepime and start Meropenem (Day #5) for broad
   spectrum coverage
   - Will add Vanc per ID recs to cover gram +
   - Will change Caspofungin to Microfungin per ID recs to decrease
   effects on LFTs
   - Holding off on PCP [**Name Initial (PRE) **]  (negative for PCP on BAL)
   - RTC anxiolytics
   - ID following
   .
   # AML M6 c/b Pancytopenia: likely poor prognosis per BMT. Pt is a poor
   candidate for BMT with his HIV status. Additionally, current chemo
   regimen available to pt is 2^nd line, with significant side effects. In
   family mtg, pt wanted to proceed with chemo.
   - Pending further analysis of bone marrow findings are pending
   - Pt started a dose of chemo with Cytarabine last night. Will touch
   base with BMT regarding additional dosing.
   - BMT following
   - Given mental status change and encephalopathy, will consider adding
   Lactulose (?non- PO form available).
   .
   # Neutropenic fever: pt continues to be afebrile with spikes to 103.
   -          Continue treatment as above, Tylenol PRN.
   .
   #Elevated LFTs: pt has had up-trending LFTS over past few days. LDH
   spiked to [**Numeric Identifier 3932**] this a.m. Can be related to recent initiation of chemo
   last night.
   -          RUQ u/s obtained yesterday to eval for obstructive process
   given leukemia. Results negative for masses/ infiltrative process.
   -          BMT following. Will touch base regarding adjustment of
   medications given transaminitis.
   -          Will check q6 tumor lysis labs.
   .
   # HIV: Stable on HAART therapy.
   - Continue Atripla. Will touch base with ID regarding adjustment of
   medications given transaminitis.
   .
   # BP control: currently stable. Continue home lopressor 25 [**Hospital1 **].
   # Hyperlipidemia: Zetia d/c
ed given elevated LFTs.
   .
   # FEN: neutropenic diet, but pt not taking much PO. Consider NGT for
   feeding (?mucositis given leukemia? Will check with BMT.) replete lytes
   as necessary.
   .
   # PPX: venodynes. H2 blocker IV.
   .
   # Lines: PIV, RSC CVL
   .
   # Dispo: Continue ICU monitoring as HR and respiratory status still
   unstable.
   .
   # Code: Full. Family meeting today to discuss possible plan for
   intubation today with patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-8-31**] 09:54 AM
   18 Gauge - [**2110-8-31**] 06:30 PM
   Arterial Line - [**2110-9-2**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: